US07179839B2
150 mg (0.45 mmoles) 4-bromo-N-indan-2-yl-4-fluoro-benzamide, 1 mg palladium-(II)-acetate, 3.4 mg tri-o-tolyl phosphine and 88 mg (0.72 mmoles) para-fluorostyrene were combined in 2 ml triethylamine and stirred under reflux for 9 h. Subsequently, the reaction mixture was poured on a mixture of ice and diluted HCl, the mixture extracted with ethyl acetate and the resulting solution dried and evaporated to dryness. The residual oil was purified using prep. HPLC chromatography. (RP18, acetonitrile/water, 1% trifluoroacetic acid). 152 mg (90%) 4-fluoro-N-{4-[2-(4-fluoro-phenyl)-vinyl]-indan-2-yl}-benzamide were obtained.

reactant | 4-bromo-N-indan-2-yl-4-fluoro-benzamide | 0.45 mmoles, 150 mg | BrC1(CC=C(C(=O)NC2CC3=CC=CC=C3C2)C=C1)F | C16H15BrFNO
reactant | para-fluorostyrene | 0.72 mmoles, 88 mg | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | HCl | Cl | ClH
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium-(II)-acetate | 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolyl phosphine | 3.4 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 4-fluoro-N-{4-[2-(4-fluoro-phenyl)-vinyl]-indan-2-yl}-benzamide | 152 mg, 90% | FC1=CC=C(C(=O)NC2CC3=CC=CC(=C3C2)C=CC2=CC=C(C=C2)F)C=C1 | C24H19F2NO
